US07125903B1
Preparation of (3-bromo-thiophen-2-yl)-(4-methoxy-phenyl)-methanone (Scheme I, Compound 5)
Treat a stirred, chilled (0° C.) solution of 3-bromothiophene (20 g, 0.123 mol) and dichloromethane (150 mL) with titanium tetrachloride in dichloromethane (184 mL, 1.0M) at such a rate as to maintain the temperature below 5° C. Add dropwise a solution of 4-methoxybenzoyl chloride (20.9 g, 0.123 mol) and dichloromethane (75 mL) at such a rate as to maintain the temperature below 5° C. Stir one hour at 0–5° C., then quench the reaction by addition of ice (100 mL) and 6N hydrochloric acid at such a rate that the internal temperature remains at or below 10° C. Add more water (100 mL), separate the organic phase, wash with water, dry (Na2SO4), filter and evaporate to an oil which solidifies. Recrystallize the solid from ether to afford the title compound as off-white crystals (19.7 g, 54%).

reactant | 3-bromothiophene | 0.123 mol, 20 g | BrC1=CSC=C1 | C4H3BrS
reactant | 4-methoxybenzoyl chloride | 0.123 mol, 20.9 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 1.0M, 184 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (3-bromo-thiophen-2-yl)-(4-methoxy-phenyl)-methanone | 19.7 g, 54% | BrC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H9BrO2S
